data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1c(F)cccc1F)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1c(F)cccc1F)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1c(F)cccc1F)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1c(F)cccc1F)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1c(F)cccc1F)C2(C)C", "products": "C[C+]1C2(c3c(F)cccc3F)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3c(F)cccc3F)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2c(F)cccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(F)cccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(F)cccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(F)cccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2c(F)cccc2F)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2c(F)cccc2F)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3c(F)cccc3F)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3c(F)cccc3F)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3c(F)cccc3F)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(OCC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(OCC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(OCC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(OCC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(OCC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(OCC)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(C)C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(C)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(C)C1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(C)C1(F)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1c(F)cccc1Cl)C1C2CCC1C2", "products": "[O][C](c1c(F)cccc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1c(F)cccc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1c(F)cccc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1c(F)cccc1Cl", "products": "OC(=CC1C=CCC1)c1c(F)cccc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1c(F)cccc1Cl", "products": "O=C(CC1C=CCC1)c1c(F)cccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1c(Cl)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1c(Cl)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1c(Cl)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1c(Cl)ccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1C(C)C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C(C)C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C(C)C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2C(C)C)C(=N)C=C1", "products": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C(C)C"}, {"reactants": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C(C)C", "products": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1ccc2c(c1C(C)C)C(c1ccccc1)C=[NH+]2", "products": "COc1ccc2[nH]cc(-c3ccccc3)c2c1C(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(Cl)c2)O1.[Rh]"}]}
